US05426210
4.35 g of trimethoxy cinnamic acid and 10 g of glycidol were dissolved in 5 ml of DMSO. The mixture was stirred and heated to 90° C. Catalystic amount of sulfuric acid was added, heating and agitation were carried out for 3.5 hours, and then the adduct of cinnamic acid and glycerin was obtained.

reactant | trimethoxy cinnamic acid | 4.35 g | COC1=C(C(=C(C(=O)O)OC)OC)C=CC=C1 | C12H14O5
reactant | glycidol | 10 g | C1C(O1)CO | C3H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | glycerin | OCC(O)CO | C3H8O3
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
